US05082841
8-Amino-3-butyryl-4-(2-methylphenylamino)quinoline (6.5 g, 0.02 moles) and 3-chloropropylmorpholine hydrochloride (5.0 g, 0.025 moles) were heated together in fusion (150° C) for 20 minutes. The product was partitioned between ethyl acetate and dil. ammonia solution. The organic layer was washed twice with sodium dihydrogen phosphate solution (pH5), dried, filtered and evaporated. Chromatography (silica gel/chloroform/30-0% hexane) and crystallization from hexane gave 3-butyryl-4-(2-methyl phenylamino)-8-(3-morpholinopropylamino)quinoline as orange crystals (0.45 g, 5%), m.p. 110°-11° C.

reactant | 8-Amino-3-butyryl-4-(2-methylphenylamino)quinoline | 0.02 moles, 6.5 g | NC=1C=CC=C2C(=C(C=NC12)C(CCC)=O)NC1=C(C=CC=C1)C | C20H21N3O
reactant | 3-chloropropylmorpholine hydrochloride | 0.025 moles, 5.0 g | Cl.ClCCCN1CCOCC1
product | 3-butyryl-4-(2-methyl phenylamino)-8-(3-morpholinopropylamino)quinoline | 0.45 g, 5% | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1)C)NCCCN1CCOCC1 | C27H34N4O2
